data/mechanism_extracts/GreenChem/10.1039_D4GC00352G_sup_1.json
{"doi": "10.1039_D4GC00352G_sup_1", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Photoelectrochemical radical cyclization of N-alkenyl quinazolinones with diethyl malonate to form pyrroloquinazolinones via malonyl radical addition/cyclization", "mechanism_family": ["photoredox_combined", "radical_anodic"], "electrochemical_role": "Anodic oxidation (assisted by photoexcited Ir(ppy)3) generates a malonyl radical from diethyl malonate, which adds to the pendant alkene; subsequent oxidation/cyclization furnishes the pyrroloquinazolinone", "key_intermediates": [{"name": "malonyl C-radical from diethyl malonate", "smiles": "CCOC(=O)[CH]C(=O)OCC", "role": "reactive"}, {"name": "alkyl radical after malonyl addition to pendant alkene of 1a", "smiles": null, "role": "transient"}, {"name": "photoexcited *Ir(ppy)3", "smiles": null, "role": "reactive"}], "electron_flow": "Photoexcited Ir(ppy)3 and/or the anode oxidizes deprotonated diethyl malonate to a malonyl radical, which adds to the alkene tether of 1a; the resulting carbon radical cyclizes onto the quinazolinone and is further oxidized/deprotonated to yield 3a. Both light and current are required.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product 3a not formed (0%), consistent with radical intermediate"}, {"name": "BHT", "smiles": "CC(C)(C)c1cc(C)cc(C(C)(C)C)c1O", "purpose": "radical_trap", "observation": "3a suppressed (0%)"}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C(c1ccccc1)c1ccccc1)", "purpose": "radical_trap", "observation": "Trapping product 4 (diethyl 2-(2,2-diphenylvinyl)malonate) isolated in 66%, confirming malonyl radical generation"}, {"name": "p-dinitrobenzene (pDNB)", "smiles": "O=[N+]([O-])c1ccc(cc1)[N+](=O)[O-]", "purpose": "radical_trap", "observation": "3a not formed (0%)"}, {"name": "CuCl2", "smiles": "[Cl-].[Cl-].[Cu+2]", "purpose": "radical_trap", "observation": "3a not formed (0%)"}, {"name": "CCl4", "smiles": "ClC(Cl)(Cl)Cl", "purpose": "radical_trap", "observation": "3a not formed (0%)"}, {"name": "DPE (1,1-diphenylethylene)", "smiles": "C=C(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Radical trapping affords 4 in 66% yield"}, {"name": "no current control (light only, stoich. Ir(ppy)3)", "smiles": null, "purpose": "other", "observation": "0% 3a — current required"}, {"name": "pre-electrolysis then dark/light without current", "smiles": null, "purpose": "other", "observation": "0% 3a — continuous electrolysis required, rules out solely photoredox pathway"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "on/off_light_or_current", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Multiple radical scavengers (TEMPO, BHT, pDNB, CuCl2, CCl4) all shut down the reaction, and DPE intercepts the malonyl radical to give 4 (66%), supporting a radical pathway. Control experiments confirm that both blue light and electrolysis are required; neither photoredox alone (Eq 1, no current) nor pre-electrolyzed catalyst in absence of current (Eq 2) delivers product, suggesting cooperative photoelectrochemical generation of the malonyl radical."}
